US03971819
d. 3-amino-4-phenoxy-5-sulphamyl-benzoic acid
A mixture of 3-amino-4-phenoxy-5-sulphamyl-benzamide (1 g) and 1N sodium hydroxide (20 ml) was refluxed for 1 hour. After cooling, the 3-amino-4-phenoxy-5-sulphamyl-benzoic acid was precipitated from the reaction mixture by addition of 4N hydrochloric acid until pH 2.5. After several recrystallizations from aqueous ethanol and drying, the compound was obtained with a melting point of 252°-253°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzamide | 1 g | NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
